2116-08-17 09:19:00 Physician Attending Progress Note
Chief Complaint: gib and vasovagal episodes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M healthy, presents with brbpr, hd stable but continued active
   bleeding:
   24 Hour Events:
   -egd nl
   -[**Last Name (un) **] showed blood but no active bleeding site identified
   -red cell scan suggested bleeding near terminal ilium
   -total transfusion: 7 units in 24 hrs
   History obtained from Patient
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2116-8-16**] 09:24 PM
   Fentanyl - [**2116-8-16**] 09:25 PM
   Other medications:
   pantopr gtt, calcium, mg, kcl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Tachypnea
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-8-17**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.7
   HR: 98 (61 - 120) bpm
   BP: 141/90(103) {55/25(33) - 148/90(103)} mmHg
   RR: 15 (7 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,175 mL
                                                                  3,621 mL
   PO:
           TF:
   IVF:
                                                                  1,150 mL
                                                                  2,871 mL
   Blood products:
                                                                  2,025 mL
                                                                    750 mL
   Total out:
                                                                    350 mL
                                                                  2,650 mL
   Urine:
                                                                    350 mL
                                                                  2,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,825 mL
                                                                    971 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: mild midline
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   80 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.4 mEq/L
   21 mg/dL
   119 mEq/L
   142 mEq/L
   28.0 %
        [image002.jpg]
                             [**2116-8-16**]  07:53 PM
                             [**2116-8-17**]  12:33 AM
                             [**2116-8-17**]  05:09 AM
   Hct
   30.8
   26.7
   28.0
   Cr
   0.6
   Glucose
   80
   Other labs: PT / PTT / INR:14.3/25.0/1.2, Ca++:6.0 mg/dL, Mg++:1.4
   mg/dL, PO4:2.5 mg/dL
   Imaging: Diagnostic angiogram performed in the celiac trunk, [**Female First Name (un) **] and
   SMA reveals no
   evidence of extravasation of contrast to suggest a localizable focus of
   GI bleed. No embolization was performed.
   Microbiology: none
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   60M with history of vasovagal episodes, presents with brbpr, s/p 7U
   prbc transfusion, negative EGD down to 3rd part of duodenum, with
   colonoscopy identifying colon full of blood extending to TI, with
   positive RBC scan but negative angio. Bleeding source remains a
   mystery: [**Last Name (un) **] vs small bowel
   gib: source?
   -discuss next diagnostic steps with gi, surgery, ir: repeat [**Last Name (un) **]? ct
   abdomen w/o contrast?
   -continue resuscitation
   -change ppi to [**Hospital1 **]
   -monitor ionized calcium, coags
   -access remains adequate
   vasovagal episodes:
   -atropine to the bedside
   -trandelenberg prn
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-8-16**] 06:34 PM
   16 Gauge - [**2116-8-17**] 08:11 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2116-08-18 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 60 y.o male with no PMH admitted for GIB, now s/p
   pre-syncopal episode.
   24 Hour Events:
   - CT Abdomen performed; final read pnd, but unofficial= small mass in
   small intestine
   - surgery may take to or.
   - Ionized Calcium low at 1.01- ca glu given
   - HCT 26.5, x2 PRBC, HCT 29.5, x2 pRBCs.
   - GSurg wont take tonight unless destabilizes
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-8-18**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 86 (76 - 125) bpm
   BP: 137/91(99) {112/69(80) - 152/100(108)} mmHg
   RR: 18 (0 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  7,722 mL
                                                                  1,804 mL
   PO:
           TF:
   IVF:
                                                                  6,072 mL
                                                                  1,304 mL
   Blood products:
                                                                  1,650 mL
                                                                    500 mL
   Total out:
                                                                  7,425 mL
                                                                    850 mL
   Urine:
                                                                  7,425 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                    954 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   11.2 g/dL
   94 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   23 mg/dL
   110 mEq/L
   141 mEq/L
   31.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2116-8-16**]  07:53 PM
                             [**2116-8-17**]  12:33 AM
                             [**2116-8-17**]  05:09 AM
                             [**2116-8-17**]  08:43 AM
                             [**2116-8-17**]  12:59 PM
                             [**2116-8-17**]  05:56 PM
                             [**2116-8-18**]  04:12 AM
   WBC
   9.0
   8.0
   Hct
   30.8
   26.7
   28.0
   31.0
   26.5
   29.7
   31.7
   Plt
   139
   136
   130
   121
   Cr
   0.6
   0.7
   0.7
   Glucose
   80
   118
   94
   Other labs: PT / PTT / INR:13.0/26.6/1.1, Differential-Neuts:82.1 %,
   Lymph:14.3 %, Mono:2.8 %, Eos:0.6 %, Fibrinogen:133 mg/dL, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60 y.o male with no PMH admitted for GIB, now s/p pre-syncopal episode.
   # GIB/Jejunal mass:  Most likely ileal or jejeunal source, as EGD was
   negative and colon was full of blood on colonoscopy.  He was given 7 [**Location 9380**] overnight on [**7-26**] and 4 [**Location 9349**] on [**8-17**] (27 -> 31).
   Continues to have dark stools.  Pt with recent heavy NSAID use and
   daily ETOH.  Surgery plans to take to OR today for resection of likely
   GIST in jejunum.
   - To OR today for resection of mass
   - IR may mark mass pre-op; have discussed with surgical resident
   - IV access with 4 PIVS, 2 16's and 2 18
s gauge
   - Active T+S and crossmatch
   - PPI [**Hospital1 **]
   - Hct q4hr, ionized calcium (ordered)
   - F/U repeat Hct
   - will consider massive transfusion protocol if indicated.
   # Pre-syncope:  The patient has a history of vagal episodes with
   diaphoresis, lightheadedness, bradycardia/hypotension in the past.  He
   had two such episodes yesterday, including one while going to the
   bathroom on [**Hospital Ward Name 289**] 2. No LOC. Likely presyncopal due to hypovolemia from
   GIB. Also could be vasovagal in nature given the above. Will consider
   other causes such as cardiac, neurologic, etc if symptoms still persist
   despite, w/u and tx for the above.
   - Continue to monitor on tele
   - Atropine at bedside in case patient loses consciousness.
   - IVF/PRBCs
   # Tachycardia:  The patient had sinus tachycardia with rates in the
   130s but has slowed today.   DDx includes hypovolemia v. pain.  BUN
   increased, which may be secondary to hypovolemia v. UGIB.
    - Continue to monitor on telemetry
   FEN: NPO for now.
   Prophylaxis: pneumoboots, PPI [**Hospital1 **], no need for bowel reg.
   Access: peripherals 3 PIVs, 2 16's and 18.
   Code:  Full (discussed with patient)
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-8-16**] 06:34 PM
   16 Gauge - [**2116-8-17**] 08:11 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-08-18 09:45:00 Physician Attending Progress Note
Chief Complaint: lgib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M with no pmh, presents with brisk GIB, now seems likely from a small
   bowel mass, radiographically consistent with [** **]:
   24 Hour Events:
   -total 5 units in 24 hrs
   -ct identified likely [** **], awaiting surgery today
   -Ca 4 more grams
   History obtained from Patient
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   pantopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Endocrine: No(t) Hyperglycemia
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-8-18**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 98 (76 - 125) bpm
   BP: 128/78(90) {112/69(80) - 152/100(108)} mmHg
   RR: 26 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  7,722 mL
                                                                  2,409 mL
   PO:
           TF:
   IVF:
                                                                  6,072 mL
                                                                  1,559 mL
   Blood products:
                                                                  1,650 mL
                                                                    850 mL
   Total out:
                                                                  7,425 mL
                                                                  1,800 mL
   Urine:
                                                                  7,425 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   121 K/uL
   94 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   23 mg/dL
   110 mEq/L
   141 mEq/L
   31.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2116-8-16**]  07:53 PM
                             [**2116-8-17**]  12:33 AM
                             [**2116-8-17**]  05:09 AM
                             [**2116-8-17**]  08:43 AM
                             [**2116-8-17**]  12:59 PM
                             [**2116-8-17**]  05:56 PM
                             [**2116-8-18**]  04:12 AM
   WBC
   9.0
   8.0
   Hct
   30.8
   26.7
   28.0
   31.0
   26.5
   29.7
   31.7
   Plt
   139
   136
   130
   121
   Cr
   0.6
   0.7
   0.7
   Glucose
   80
   118
   94
   Other labs: PT / PTT / INR:13.0/26.6/1.1, Differential-Neuts:82.1 %,
   Lymph:14.3 %, Mono:2.8 %, Eos:0.6 %, Fibrinogen:133 mg/dL, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   60M with no pmh, presents with brisk GIB, now seems likely from a small
   bowel mass, radiographically consistent with [**Year (4 digits) **], awaiting surgery
   today. Patient has an unlimited exercise tolerance and no prior cardiac
   history. He is at a very low risk for a cadiac complication related to
   this surgery. No need for perioperative beta blockers:
   gib: likely from [**Year (4 digits) **]
   -awaiting surgery
   -adequate access
   -ppi daily
   -continue frequent check of hct, calcium, and replete prn
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2116-8-18**] 08:32 AM
   18 Gauge - [**2116-8-18**] 08:33 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU, awaiting surgery, then to SICU vs floor
   Total time spent: 35 minutes
   Patient is critically ill